US06599902B2
Synthesis of 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid {2-[4-(2-amino-2-methyl-propionyl)-piperazin-1-yl]-ethyl}-amide
To a mixture of (2-{4-[2-({5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazin-1-yl}-1,1-dimethyl-2-oxo-ethyl)-carbamic acid tert-butyl ester (from the above reaction) in DCM (3 mL) was added 6N HCl in ethyl acetate. The mixture was stirred at 40° C. for 3 hours. The reaction was concentrated, basified to pH 7-8 with 2N NaOH, extracted with DCM and concentrated. The residue was purified on a silica gel column to give 40 mg the titled compound as a red solid.

reactant | (2-{4-[2-({5-[5-(2,6-dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carbonyl}-amino)-ethyl]-piperazin-1-yl}-1,1-dimethyl-2-oxo-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(=O)N1CCN(CC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)(C)C)=O | C38H46Cl2N6O7S
reactant | HCl | 6N | Cl | ClH
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-[5-(2,6-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid {2-[4-(2-amino-2-methyl-propionyl)-piperazin-1-yl]-ethyl}-amide | 40 mg | NC(C(=O)N1CCN(CC1)CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=C(C=CC=C1Cl)Cl)=O)C)(C)C | C33H38Cl2N6O5S
